US07319152B2
2-(3,3-dimethyl-1-oxo-2,3-dihydro-1H-inden-5-yl)benzonitrile
The title compound was prepared from trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester and 2-cyanophenyl boronic acid according to the procedure described in example 21. MS (ESI) m/z 262; HRMS: calcd for C18H15NO+H+, 262.12264; found (ESI, [M+H]+), 262.1234.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 2-cyanophenyl boronic acid | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
product | 2-(3,3-dimethyl-1-oxo-2,3-dihydro-1H-inden-5-yl)benzonitrile | CC1(CC(C2=CC=C(C=C12)C1=C(C#N)C=CC=C1)=O)C | C18H15NO
